US07098337B2
a) Pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester
To a solution of 80.9 g (0.43 mol) 1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester in 1800 ml acetonitrile was added 111.4 g (0.51 mol) di-tert-butyl dicarbonate followed by 2.60 g (0.02 mol) 4-dimethylaminopyridine. After 1 h the solvent was removed on a rotary evaporator and the residue was purified by flash column chromatography over silica gel (0.032–0.063 mm) with n-hexane:ethyl acetate (9:1) as eluant to afford the product as a yellow oil (96.6%).

reactant | 1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester | 0.43 mol, 80.9 g | C(C)OC(=O)C1=CC=2C(=NC=CC2)N1 | C10H10N2O2
reactant | di-tert-butyl dicarbonate | 0.51 mol, 111.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 1800 ml | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 0.02 mol, 2.60 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 96.6% | CCOC(=O)C1=CC=2C(=NC=CC2)N1C(=O)OC(C)(C)C | C15H18N2O4
